US04626538
N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-ethylpropanamide
A mixture of 0.54 g of 3-amino-4-pyrazolecarbonitrile and 1.37 g of N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethylpropanamide in 50 ml of glacial acetic acid was refluxed for 8 hours and then the solvent was removed. The residue was partitioned between saturated aqueous sodium bicarbonate and dichloromethane. The organic layer was separated, dried, passed through a pad of hydrous magnesium silicate and hexane was added to the refluxing filtrate. The mixture was then cooled and the solid collected, giving 1.3 g of the desired product, mp 161°-162° C.

reactant | 3-amino-4-pyrazolecarbonitrile | 0.54 g | NC1=NNC=C1C#N | C4H4N4
reactant | N-[3-[3-(dimethylamino)-1-oxo-2-propenyl]phenyl]-N-ethylpropanamide | 1.37 g | CN(C=CC(=O)C=1C=C(C=CC1)N(C(CC)=O)CC)C | C16H22N2O2
solvent | acetic acid | 50 ml | C(C)(=O)O | C2H4O2
product | N-[3-(3-Cyanopyrazolo[1,5-a]pyrimidin-7-yl)phenyl]-N-ethylpropanamide | 1.3 g | C(#N)C=1C=NN2C1N=CC=C2C=2C=C(C=CC2)N(C(CC)=O)CC | C18H17N5O
